US08017604B2
Step 2: 4-(Azetidine-1-carbonyl)-2-ethyl-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide
TBTU (82 mg) and diisopropylamine (83 mg) were added to a solution of 1-ethyl-5-(2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (80 mg, 0.21 mmol) in DMF (1 ml). After stirring this mixture for 30 min (r.t.), azetidine (37 mg, 0.65 mmol) was added to the light brown solution. The mixture was stirred at r.t. overnight, and the title compound (21 mg, 24%) was isolated from the mixture by preparative, inverse-phase HPLC (Agilent Zorbax XdB-C18 column, time per run ˜7 min, flow rate 30 ml/min, solvent gradient H2O/CH3CN=95:5-5:95). MS (m/e)=415.3 [M+H+].

reactant | TBTU | 82 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylamine | 83 mg | C(C)(C)NC(C)C | C6H15N
reactant | 1-ethyl-5-(2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 0.21 mmol, 80 mg | C(C)N1N=CC(=C1C(NC1=CC=2N(C=C1)C=C(N2)C2=CC=CC=C2)=O)C(=O)O | C20H17N5O3
reactant | azetidine | 0.65 mmol, 37 mg | N1CCC1 | C3H7N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | H2O CH3CN | O.CC#N
product | 4-(Azetidine-1-carbonyl)-2-ethyl-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide | 21 mg, 24% | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)CC)C1 | C23H22N6O2
